US08134001B2
In a manner similar to the method described in example 1d, 5-bromo-2-(4-fluoro-phenoxy)-benzaldehyde (5.8 g, 20 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (4.1 mL, 20 mmol), n-butyllithium (2.5 M, 8 mL, 20 mmol), trimethylsilyl chloride (2.5 mL, 20 mmol), triethylamine (3.55 mL, 25 mmol) and acetyl chloride (1.8 mL, 25.5 mmol) to give crude 1-[5-bromo-2-(4-fluoro-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-bromo-2-(4-fluoro-phenoxy)-benzaldehyde | 20 mmol, 5.8 g | BrC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)F | C13H8BrFO2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 20 mmol, 4.1 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 20 mmol, 2.5 M, 8 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 20 mmol, 2.5 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 25 mmol, 3.55 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 25.5 mmol, 1.8 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-bromo-2-(4-fluoro-phenoxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)F | C18H19BrFNO2Si
